US04931574
A 12 L three-neck, round-bottom flask equipped with a mechanical stirrer, a dropping funnel and a nitrogen bubbler was charged with 340.0 g (0.90 mole) of rac-6-acetyl-3,4-dihydro-7-[(5-acetoxypentyl)]oxy]-2H-1-benzopyran-2-carboxylic acid methyl ester. A total of 6.8 L of methanol was added and the mixture was stirred at room temperature under a nitrogen atmosphere for 10 minutes until a complete solution was obtained. A total of 180 mL of 1M tetrabutylammonium hydroxide in methanol was added over 15 minutes from the dropping funnel and the reaction mixture was stirred at room temperature for 4.5 hours at which time thin layer chromatography (60% ethyl acetate in hexanes) indicated that the reaction was complete. The pH of the reaction mixture was then adjusted to pH=6 by the addition of 8 mL of glacial acetic acid. The methanol was removed at 40°/70 mm and the residue was transferred to a separatory funnel using 3 L of ethyl acetate. The solution was washed with 600 mL of 0.5N hydrochloric acid solution, 2×600 mL=1.2 L of 1:1 deionized water-saturated brine, 600 mL of saturated aqueous sodium bicarbonate, 2×600 mL=1.2 L of 1:1 deionized water-saturated brine, and 600 mL of saturated brine. The organic layer was dried (anhydrous sodium sulfate), and filtered into a 12 L three-neck flask equipped with a mechanical stirrer, a dropping funnel and a nitrogen bubbler, and evaporated to give a gum, which solidified on refrigeration for two days. Crystallization was induced by the careful addition of hexanes to a cold solution of the gum in ethyl acetate, to give rac-6-acetyl-3,4-dihydro-7-[(5-hydroxypentyl)oxy]-2H-1-benzopyran-2-carboxylic acid methyl ester, mp 58° -62° C. The amounts of the solvents used were such that there was about 70% ethyl acetate in hexanes. Returning to the original reaction being described in Example 3, about 4 L of solution of this alcohol in ethyl acetate was cooled in an ice bath and stirred under a nitrogen atmosphere. A total of 750 mL of triethylamine was added in one portion followed by the addition of 160 mL of methanesulfonyl chloride over a 20 minute period. After stirring for 30 minutes in the ice bath, thin layer chromatography showed the reaction to be incomplete. A total of 40 mL of methanesulfonyl chloride was added over 5 minutes and after stirring in the ice-bath for an additional 90 minutes, the reaction was still incomplete. Then 100 mL of triethylamine was added in one portion and 80 mL of methanesulfonyl chloride was added over 10 minutes and stirring was continued in the ice-bath for an additional 40 minutes, at which time the reaction was complete as indicated by thin layer chromatography (60% ethyl acetate in hexane). During this reaction, additional triethylamine was needed to keep a basic reaction medium. The reaction mixture was transferred to a separatory funnel, and was washed with 1 L of 2N hydrochloric acid solution, 2×1 L=2 of 1:1 deionized water-saturated brine, 1 L of saturated brine and dried over anhydrous sodium sulfate. The solution was filtered, concentrated at 40° C/70 mm to about 1530 mL, and then heated to boiling on a steam bath. A total of 1020 mL of hexanes was added and the solution was allowed to cool to room temperature. Crystallization was induced by scratching with a glass rod while cooling. After standing at room temperature for 4 hours, the mixture was refrigerated overnight to complete the crystallization process. The crystals were collected by filtration, washed with 200 mL of cold 4:3 ethyl acetate-hexanes, and dried in vacuo at room temperature under 0.5 mm high vacuum to give 317.1 g (85.2% yield) of rac-6-acetyl-3,4-dihydro-7-[5-[(methylsulfonyl)-oxy]pentyloxy]-2H- 1-benzopyran-2-carboxylic acid methyl ester, mp 73°-76° C., as a white powder, homogeneous by thin layer chromatography (60% ethyl acetate in hexanes).

reactant | 2H-1-benzopyran-2-carboxylic acid methyl ester | COC(=O)C1OC2=C(C=C1)C=CC=C2 | C11H10O3
reactant | tetrabutylammonium hydroxide | 1M, 180 mL | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | methanol | 6.8 L | CO | CH4O
product | rac-6-acetyl-3,4-dihydro-7-[(5-hydroxypentyl)oxy]-2H-1-benzopyran-2-carboxylic acid methyl ester | COC(=O)C1OC2=C(CC1)C=C(C(=C2)OCCCCCO)C(C)=O | C18H24O6
